US07989460B2
TFA (8 ml) was added to a solution of 7-{2-[4-(tert-butoxycarbonyl)piperazin-1-yl]ethoxy}-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline (2.75 g) in dichloromethane (30 ml) at 0° C. and the reaction mixture was stirred at this temperature for 1 hour before being concentrated in vacuum in a cold bath (˜20° C.). Cold water was added to the residue and the pH was adjusted to 10.5 with 1N sodium hydroxide. After several extractions with dichloromethane, the combined organic layers were dried over magnesium sulphate, filtered and concentrated in vacuum to give 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-[2-(piperazin-1-yl)ethoxy]quinazoline (1.8 g) as a white solid.

reactant | TFA | 8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 7-{2-[4-(tert-butoxycarbonyl)piperazin-1-yl]ethoxy}-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline | 2.75 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C)OC | C29H35N5O5
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-[2-(piperazin-1-yl)ethoxy]quinazoline | 1.8 g | COC=1C=C2C(=NC=NC2=CC1OCCN1CCNCC1)OC=1C=C2C=C(NC2=CC1)C | C24H27N5O3
